US09388176B2
4-(3-((Dimethylamino)methylene)-4-oxopyrrolidin-1-yl)-pyridine-2-carboxylic acid phenylamide
A suspension of 4-(3-oxopyrrolidin-1-yl)-pyridine-2-carboxylic acid phenylamide (130 mg, 0.46 mmol) and dimethylformamide dimethylacetal (0.12 mL, 0.90 mmol) in 1,4-dioxane (2 ml) was heated under nitrogen at 100° C. for 4.5 h. The solvent was removed in vacuo and the residue was purified by chromatography on silica gel (25 g) eluted with dichloromethane:methanol 19:1 and gave the title compound (95 mg, 0.28 mmol, yield 61%).

reactant | 4-(3-oxopyrrolidin-1-yl)-pyridine-2-carboxylic acid phenylamide | 0.46 mmol, 130 mg | C1(=CC=CC=C1)NC(=O)C1=NC=CC(=C1)N1CC(CC1)=O | C16H15N3O2
reactant | dimethylformamide dimethylacetal | 0.90 mmol, 0.12 mL | COC(N(C)C)OC | C5H13NO2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4-(3-((Dimethylamino)methylene)-4-oxopyrrolidin-1-yl)-pyridine-2-carboxylic acid phenylamide | 0.28 mmol, 95 mg, yield 61% | C1(=CC=CC=C1)NC(=O)C1=NC=CC(=C1)N1CC(C(C1)=O)=CN(C)C | C19H20N4O2
